US07507747B2
2-Benzyl-1-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-3-phenyl-propan-2-ol
The title compound was prepared from (8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-acetic acid methyl ester and benzylmagnesium chloride by following the experimental procedures in Example 1 (31% yield): LCMS (ES) m/z 348 (M+H)+; 1H-NMR(CDCl3) δ 0.90 (m, 1H), 1.25 (m, 1H), 1.61 (m, 1H), 1.81 (m, 3H), 2.20 (s, 3H), 2.40 (m, 1H), 2.70 (m, 1H), 2.87 (m, 1H), 2.97 (m, 2H), 3.08 (m, 1H), 3.42 (s, 2H), 5.24 (s, 1H), 7.26 (m, 10H).

reactant | (8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-acetic acid methyl ester | COC(C=C1CC2CCC(C1)N2C)=O | C11H17NO2
reactant | benzylmagnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
product | 2-Benzyl-1-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-3-phenyl-propan-2-ol | C(C1=CC=CC=C1)C(C=C1CC2CCC(C1)N2C)(CC2=CC=CC=C2)O | C24H29NO
